US04933330
Methyl 2-hydroxy-5benzylideneaminobenzoate
Methyl 2-hydroxy-5-aminobenzoate (43.6 g, 0.261 mole) was dissolved in benzaldehyde (26.6 ml, 0.26 mole) by heating to 100° C. for 10 minutes and cooled with ice-water after which 95% ethanol (40 ml) was added, and the resulting crystalline material was isolated by filtration. The product was recrystallized from 96% ethanol to give the title compound (45.6 g, 69%), m.p. 58°-59° C. Found (Calc. for C15H13NO3) C 70.60 (70.58), H 5.06 (5.10), N 5.50 (5.49).

reactant | Methyl 2-hydroxy-5-aminobenzoate | 0.261 mole, 43.6 g | OC1=C(C(=O)OC)C=C(C=C1)N | C8H9NO3
reactant | benzaldehyde | 0.26 mole, 26.6 ml | C(C1=CC=CC=C1)=O | C7H6O
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | Methyl 2-hydroxy-5benzylideneaminobenzoate | 45.6 g, 69% | OC1=C(C(=O)OC)C=C(C=C1)N=CC1=CC=CC=C1 | C15H13NO3
